data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_631635_0,[C:1]1([N:4]([O:7][H:9])[O:8][H:10])([H:11])[C:5]([C:2]([H:12])([H:13])[H:14])=[C:6]1[C:3]([H:15])([H:16])[H:17]>>[C:1]1([H:11])=[C:6]([C:3]([H:15])([H:16])[H:17])[C:5]1([C:2]([H:12])([H:13])[H:14])[N:4]([O:7][H:9])[O:8][H:10],53.749140000017945
MR_195582_1,[N:1]([C:2]([N:4]([H:10])[H:11])=[O:8])([C:3]([N:5]([H:12])[H:13])=[C:6]([H:14])[H:15])[O:7][H:9]>>[N:1](=[C:2](/[N:4]([H:10])[H:11])[O:8][C:3]([N:5]([H:12])[H:13])=[C:6]([H:14])[H:15])\[O:7][H:9],58.4133475000128
MR_540116_0,[C:1](/[N:5]=[C:3](\[C:2]([H:10])([H:11])[H:12])[N:6]=[C:4]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:5]1[C:3]([C:2]([H:10])([H:11])[H:12])=[N:6][C:4]1([H:13])[H:14])([H:7])([H:8])[H:9],33.55618999999322
MR_523241_0,[C:1](=[C:3]([H:10])[H:11])([O:4][O:5][H:7])[N:6]=[C:2]([H:8])[H:9]>>[C:1](=[C:3]([H:10])[H:11])([O:4][N:6]=[C:2]([H:8])[H:9])[O:5][H:7],72.24658500000743
MR_502520_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:6][H:8])([O:5][N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[C:3]([C:2]([H:13])([H:14])[H:15])[N:7]([O:5][N:4]([H:9])[H:10])[O:6][H:8])([H:11])[H:12],53.63995499997259
MR_385753_0,[C:1]([C:2]([C:3]([C:5](=[O:8])[H:15])([H:16])[H:17])([H:13])[H:14])([N:4]([H:11])[H:12])([O:6][H:9])[O:7][H:10]>>[C:1](\[C:2]([C:3]([C:5]([O:7][H:10])([O:8][H:12])[H:15])([H:16])[H:17])([H:13])[H:14])(=[N:4]/[H:11])[O:6][H:9],30.295072500022822
MR_13598_0,[C:1](/[C:4]([C:3]([O:6][H:8])=[O:7])=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[C:3]([O:6][H:8])[O:7][C:5]1([C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12],59.03520000001223
MR_299831_1,[C:1]([N:4]([N:6]([H:10])[H:11])[N:8]=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([O:7][H:9])([H:12])[H:13]>>[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])/[N:8]=[N:4]/[N:6]([H:10])[H:11])([O:7][H:9])([H:12])[H:13],71.60465250002304
MR_171587_1,[C:1]1([H:11])([H:12])[N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([N:7]([H:9])[H:10])=[C:6]([C:3]([H:16])([H:17])[H:18])[O:8]1>>[C:1]1([H:11])([H:12])[C:6]([C:3]([H:16])([H:17])[H:18])(/[C:5](=[N:4]/[C:2]([H:13])([H:14])[H:15])[N:7]([H:9])[H:10])[O:8]1,55.674310000008376
MR_497915_0,[C:1]1([H:12])([H:13])/[C:3](=[N:7]/[H:11])[N:2]([H:8])[C:6]([H:14])=[C:4]1[N:5]([H:9])[H:10]>>[C:1]1([H:12])([H:13])/[C:3](=[N:7]/[H:11])[C:4]1([N:5]([H:9])[H:10])/[C:6](=[N:2]/[H:8])[H:14],68.01786250001882
MR_251780_1,[C:1]([N:3]([O:6][H:8])[O:7][H:9])([C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:3]([O:6][H:8])[C:4]1([C:2]([H:12])([H:13])[H:14])[C:5]([O:7][H:9])([H:15])[H:16],69.09402499997697
MR_699511_0,[C:1](/[C:4]([C:3]([N:6]([H:9])[H:10])=[O:8])=[C:5](/[C:2]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1=[C:3]([N:6]([H:9])[H:10])[O:8][C:5]1([C:2]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])([H:13])([H:14])[H:15],39.76718500000644
MR_33051_1,[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]2([C:2]([H:13])([H:14])[H:15])[C:6]1([H:12])[C:5]([H:11])=[N:7]2>>[C:1]1([N:4]([H:9])[H:10])([H:8])[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7][C:5]([H:11])=[C:6]1[H:12],20.457127499999785
MR_17097_0,[C@:1]12([C:6]([H:14])([H:15])[H:16])[C@@:2]([H:7])([C:3]1([H:8])[H:9])[C:5]([H:12])([H:13])[C:4]2([H:10])[H:11]>>[C:1]([C:2]1([H:7])[C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])(=[C:3]([H:8])[H:9])[C:6]([H:14])([H:15])[H:16],65.64465750001816
MR_184912_1,[C:1](/[C:5](=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:4]([H:11])[H:12])[H:13])([O:6][H:9])([O:7][H:8])[H:10]>>[C:1](=[C:5](/[C:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:11])[H:12])[O:6][H:9])[H:13])(\[O:7][H:8])[H:10],49.27945749999566
MR_21955_2,[C:1]([C:2]([O:7][H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:10])=[O:8])[O:5][H:9]>>[C:1]([C:2](=[O:7])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:10])([O:8][H:11])[H:13])[O:5][H:9],65.74819499997076
MR_478173_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([O:7][H:9])=[O:8])([N:5]([H:12])[H:13])[O:6][N:4]([H:10])[H:11]>>[C:1](\[C:2]([H:14])([H:15])[H:16])([C:3]([O:6][N:4]([H:10])[H:11])([O:7][H:9])[O:8][H:12])=[N:5]\[H:13],31.221890000001338
MR_320118_1,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])(/[C:5](=[C:7](/[C:4]([H:19])([H:20])[H:21])[H:12])[O:8][H:10])[C:6](=[O:9])[H:11]>>[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])=[C:5]([C@@:7]([C:4]([H:19])([H:20])[H:21])([C:6](=[O:9])[H:11])[H:12])[O:8][H:10],51.75808250001552
MR_331425_1,[C:1](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:8]/[H:11])([C:5]([C:3]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])([O:7][H:9])[H:10]>>[C:1](=[C:4](\[C:2]([H:12])([H:13])[H:14])[N:8]([C:5]([C:3]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])[H:11])(\[O:7][H:9])[H:10],70.61696749998418
MR_84301_0,[C:1]([O:4][C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([O:5][H:7])([H:8])[H:9]>>[C:1]([O:5][H:7])([O:6][C:3]([C:2]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9],44.04673500000939
